Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ondansetron
 
Attending: ___.
 
Chief Complaint:
intractable nausea/vomiting
 
 
Major Surgical or Invasive Procedure:
___: PEG-tube 

 
History of Present Illness:
HPI: Mr ___ is a ___ yo male with laryngeal cancer treating 
with chemo-radiation combo therapy C1D7, Cisplatinum last ___ 
presenting to ___ clinic this AM with intractable nausea, 
vomiting, lethargy and inability to tolerate PO since ___. 
Orthostatic in the clinic though not frankly hypotensive. 
Vomited twice in clinic.

He has been taking compazine 10mg alternating with ativan 1mg 
without relief at home. He last took ativan at 3am and compazine 
at 6am. He continues to feel nauseated and vomiting, mostly 
clear phlegm. Feels he is vomiting so much he is unsure if he is 
even keeping medications down. No hematemesis He is unable to 
hold down fluids. He did try the zofran again last night but it 
gave him another headache, needing tylenol to relieve. He feels 
light headed and dizzy since yesterday as well. He states his 
urine is also darker than normal. No dysuria. No diarrhea.

In clinic, vital signs: Lying 133/78 P 71 Afebrile 97.7 100% 
roomair
                        Sitting 122/90 P 80
                        Standing ___ P ___
IV NS 1 liter over ___ hrs started at 8:45am.
Medicated with ativan 1mg sl at 9:30am.
Nl chem7, CBC (if anything, appear a little hemoconcentrated 
compared to prior). 
Admitted to ___ for nausea control.

On the floor patient continues to complain of feeling 
lightheaded and nauseous. Otherwise, no systemic complaints.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
- ___: noticed hoarseness
- Seen by Dr. ___ in ___ ENT in ___. An 
endoscopy showed a large mass in the supraglottic larynx.  
- ___: Biopsy showed squamous cell carcinoma in the 
supraglottic area.  There was also involvement of the epiglottis 
and the patient underwent further staging scan including a CT 
and a PET scan.  
- ___: PET scan confirmed the FDG-avid lesions, no
regional lymph nodes, but there was also some pre-epiglottic
extension and also uptake in the sixth rib and L4 of uncertain
significance
- ___: C1D1 Cisplatin with concurrent radiation
 
PAST MEDICAL HISTORY: Hemolytic anemia, prior knee scope.
 
Social History:
___
Family History:
Sister had breast and pancreatic cancer. 
 
Physical Exam:
ADMISSION EXAM: 
============
Vitals: 98.3 115/62 73 18 98%  
GENERAL: NAD, appears older than stated age
HEENT: pupils equal, dry MM  
CARDIAC: RRR, nl S1/S2, no m/r/g  
LUNG: CTAB
ABDOMEN: +BS, NTND, no masses
EXTREMITIES: WWP, no edema 
NEURO:  AOx3, ___ strenght in upper and lower extremeties
SKIN: diffuse frecking/hypopigmentation  
 
DISCHARGE EXAM: 
===============
Vitals: 98.2 130/64 61 20 97% RA
GENERAL: NAD, appears older than stated age
HEENT: pupils equal, dry MM  
CARDIAC: RRR, nl S1/S2, no m/r/g  
LUNG: CTAB
ABDOMEN: +BS, ND, no masses, PEG-tube in place, with dressing 
c/d/i, mild tenderness around insertion site, but no rebound, no 
peritoneal signs
EXTREMITIES: WWP, no edema 
NEURO:  AOx3, ___ strenght in upper and lower extremeties
SKIN: diffuse freckling/hypopigmentation
 
Pertinent Results:
ADMISSION LABS: 
============
___ 08:45AM   GLUCOSE-103* UREA N-22* CREAT-0.9 SODIUM-134 
POTASSIUM-4.7 CHLORIDE-96 TOTAL CO2-29 ANION GAP-14
___ 08:45AM   WBC-7.8# RBC-4.91 HGB-15.4 HCT-44.6 MCV-91 
MCH-31.3 MCHC-34.6 RDW-12.4
___ 08:45AM   NEUTS-80.1* LYMPHS-11.8* MONOS-6.9 EOS-1.0 
BASOS-0.1
___ 08:45AM   PLT COUNT-191

DISCHARGE LABS: 
===============
___ 06:10AM BLOOD WBC-4.6 RBC-4.31* Hgb-13.8* Hct-38.8* 
MCV-90 MCH-32.0 MCHC-35.5* RDW-12.6 Plt ___
___ 06:10AM BLOOD Plt ___
___ 06:10AM BLOOD ___ PTT-53.0* ___
___ 06:40AM BLOOD Glucose-109* UreaN-21* Creat-0.8 Na-135 
K-4.1 Cl-97 HCO3-31 AnGap-11
___ 06:40AM BLOOD Calcium-9.2 Phos-4.7* Mg-1.9
 
Brief Hospital Course:
Mr ___ is a ___ yo male with laryngeal cancer treating with 
chemo-radiation combo therapy, Cisplatinum last ___ 
presenting to ___ clinic with intractable nausea, vomiting, 
lethargy and inability to tolerate PO since ___. 

ACUTE ISSUES: 
============= 
# N/V: admitted with 24 hours of intractible nausea despite 
compazine and ativan at home (gets terrible headaches with 
zofran). Found to orthostatic in ___ clinic, and so admitted 
for nausea controll and rehydration. Likely chemo/radiation 
related, no other symptoms concerning for obstruction or 
infection. Aggresively fluid resusscitated (6L + day of 
admission), and placed on scheduled compazine, ativan, 
olanzipine and dexamethasone, with eventual improvement in 
nausea and abilitity to take PO.  

# Laryngeal Cancer: admitted on C1D7 of Cisplatnum, ___ 
radiation treatments. Recieved radiation ___. Evaluated by S&S, 
as he was scheduled to as an outpatient, and while he passed 
bedside swallow, it was noted he had lost 10lbs since initiating 
chemotherapy, and so outpatient providers felt ___ PEG-tube needed 
to be placed. PEG-tube placed ___, and tube feeds were started 
___, advanced to goal on ___, tolerated well. 

# Pancytopenia: noted only after adequate hydration; likely 
related to chemotherapy. Stable for duration of hospitalization. 


CHRONIC ISSUES: 
===============
# GER: continued home ranitidine and pantoprazole

TRANSITIONAL ISSUES: 
====================
# Continue tube feeds at home for duration of chemotherapy
# CODE: FULL CODE
# EMERGENCY CONTACT: ___ (WIFE) Phone: ___ 
# Patient was treated with Dexamethasone in house for nausea 
though discontinued once resolved, he may require a prolonged 
course of Dexamethasone after next Cisplatinum dosing if nausea 
not controlled with Ativan/Zyprexa/Compazine. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Ranitidine 150 mg PO DAILY 
2. Pantoprazole 20 mg PO Q24H 
3. Lorazepam 0.5 mg PO Q4H:PRN nausea/anxiety 
4. Prochlorperazine 10 mg PO Q6H:PRN nausea 

 
Discharge Medications:
1. Pantoprazole 20 mg PO Q24H 
2. Ranitidine 150 mg PO DAILY 
3. Lorazepam 0.5 mg PO Q4H:PRN nausea/anxiety 
4. Prochlorperazine 10 mg PO Q4HOURS:PRN Nausea 
5. OLANZapine (Disintegrating Tablet) 5 mg PO BID:PRN nausea 
RX *olanzapine 5 mg 1 tablet,disintegrating(s) by mouth twice a 
day Disp #*30 Tablet Refills:*0
6. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q4hours Disp #*30 Tablet 
Refills:*0
7. Tube Feeds
Tubefeeding: Jevity1.5 Full strength; 
Starting rate at Goal rate: 90 ml/hr
Cycle?: Yes, 16 hours total cycle time
Residual Check: q4h Hold feeding for residual >= : 200 ml
Flush w/ 200 ml water q4h
Duration: 8 weeks

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
# PRIMARY: nausea and vomiting related to chemo/radiation
# SECONDARY: laryngeal cancer, weight loss

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___, 
    
It was a pleasure taking care of you at the ___ 
___. You were admitted for intractible 
nausea and vomiting with dehydration. You were given IV fluid 
and additional anti-nausea medications with improvement. You 
were also noted to have a 10-lb weight loss in the past week. 
Your outpatient oncologist felt you needed to have a feeding 
tube placed for the remainder of your chemotherapy, and so you 
had a PEG-tube placed. Through your PEG-tube you can recieve 
tube feeds. Your nausea was improved and you were tolerating by 
mouth food and tube feeds without issue prior to discharge.

 
Followup Instructions:
___